datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:72][C:61]([C:10](=[C:11](C1=CC=CC=C1)[O-:12])[C:81](=[O:82])[O:92]CC)=[O:62].CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1>>CC[O:72][C:61]([C:10]([C:11](C1=CC=CC=C1)=[O:12])([CH:20](C1=CC=C(N(C)C)C=C1)C1C(C2=CC=C(N(C)C)C=C2)[Pd-2:21]1([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:81](=[O:82])[O:92]CC)=[O:62] 10,11=10,20;12=11,12;20,21=21"
"CC(C)[Si:63](C(C)C)(C(C)C)[CH2:62][CH:11]=[CH2:10].C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2>>CC(C)[Si:63](C(C)C)(C(C)C)[CH2:62][CH+:11][CH2:10][CH:20]1[C:21]2=[C:22](C=CC=C2)[N:23](C)[C:32]2=[C:31]1C=CC=C2 10,11=10,20;20,21=21,22;22,23=23"
"C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32].C[Si:63](C)(C)[O:12][C:11](C(F)(F)F)=[CH2:10]>>C[N:43]1[C:22]([O-:23])=[CH:21][CH:20]([CH2:10][C:11](C(F)(F)F)=[O+:12][Si:63](C)(C)C)[C:31]1=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH:11](C)[H:10].O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1>>CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH+:11]C.O=[N+]([O-])[C:43]1=[CH:42][C:21](=[N+:22]([O-:23])[O-:33])[CH:20]([H:10])[S:44]1 10,11=10,20;20,21=21,22;22,23=23"
"C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C.[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4CC[CH:20]([H:10])C1C2C43 10,11=10,20;20,21=21"
"CC[O:92][C:61]([C-:10](OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC[O:92][C:61]([C:10](OC)([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.C[C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62]>>C[C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[C:20]1(C2=CC=CC=C2)[S:31]CCC[S:41]1)=[O:62] 10,11=10,20;12=11,12"
"CN1CC[N:12]([C:11]2=[CH:10]CCCC2)CC1.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>CN1CC[N+:12](=[C:11]2CCCC[CH:10]2[F:20])CC1.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1 10,11=10,20;12=11,12;20,21=21"
"C[C:11](=[CH2:10])[C:62](C)=[CH2:63].C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[C+:11]([CH2:10][CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:62](C)=[CH2:63] 10,11=10,20;20,21=21,22;22,23=23"
"C/[C:10](=[C:11](\C)[O-:12])[C:61](C)=[O:62].C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1>>C[C:10]([C:11](C)=[O:12])([CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC2)CC[C:33]3=[CH:32]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC[C:45]3=[CH:46]1)CC2)[C:61](C)=[O:62] 10,11=10,20;12=11,12"
"C[Si](C)(C)[C:63]1=[CH:62][CH:11]=[CH:10][S:64]1.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[Si](C)(C)[C:63]1=[CH:62][CH+:11][CH:10]([S:20]C(F)(F)F)[S:64]1 10,11=10,20;20,21=21"
"C[C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>C[C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]2=[N:35]O[N:42]=[C:41]12)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1.C[N:10]1CCCCC1>>COC1=CC=[N+](C[C:21]([CH:20]([N+:10]2(C)CCCCC2)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10=20;20,21=21,22;22,23=23"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1.C[N:62](C)[C:61](=[NH:10])[N:72](C)C>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([NH+:10]=[C:61]([N:62](C)C)[N:72](C)C)[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[N:82]1[C:11]([O-:12])=[CH:10][C:61](=[O:62])[N:82](C)[C:73]1=[O:74]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]1[C:11](=[O:12])[N:82](C)[C:73](=[O:74])[N:82](C)[C:61]1=[O:62])[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
